US04831032
2,3,5,6-Tetrahydro-7H-imidazo[4,5-f]benzoxazol-2,6-dione
3.3 g. (0.02 mole) 5,6-diaminobenzoxazolin-2-one and 5.5 g. (0.034 mole) 1,1'-carbonyldiimidazole are dissolved in 150 ml. dioxan and heated to the boil for 3 hours. After cooling to ambient temperature, the brownish crystalline substance obtained is filtered off with suction, boiled with dimethylformamide, filtered with suction and washed with methanol. There is obtained a yield of 65% of theory of the desired compound; m.p. >360° C.

reactant | 5,6-diaminobenzoxazolin-2-one | 0.02 mole | NC=1C(=CC2=C(NC(O2)=O)C1)N | C7H7N3O2
reactant | 1,1'-carbonyldiimidazole | 0.034 mole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 2,3,5,6-Tetrahydro-7H-imidazo[4,5-f]benzoxazol-2,6-dione | yield of 65% | O1C(NC2=C1C=C1C(=C2)NC(N1)=O)=O | C8H5N3O3
